.include pmos_nmos_3p3_wrapper.spice
* Auto TB for barthmanf_edge
.include /mnt/e/MyResearch/Mixed_ngspice/test/models/45nm_LP_BSIM4/ptm45lp.lib
.option gmin=1e-12
* NGSPICE file created from barthmanf.ext - technology: gf180mcuC

.subckt barthmanf_edge vreg gp op im x y ip om vdd gnd bp
X0 gnd lo lo gnd nmos_3p3 w=1.8u l=0.6u
X1 vdd hih hih vdd pmos_6p0 w=1.8u l=0.6u
X2 vreg hi hi bp pmos_3p3 w=1.5u l=0.6u
C0 vdd vreg 0.22fF
C1 hi vreg 0.11fF
C2 hi bp 0.28fF
C3 vdd hih 0.45fF
C4 bp vreg 0.23fF
C5 gp vreg 1.01fF
C6 om gnd 0.85fF
C7 ip gnd 0.58fF
C8 y gnd 0.58fF
C9 x gnd 0.58fF
C10 im gnd 0.58fF
C11 op gnd 0.84fF
C12 vreg gnd 0.44fF
C13 bp gnd 4.35fF
C14 vdd gnd 4.01fF
C15 lo gnd 0.84fF
C16 hi gnd 0.46fF
C17 hih gnd 0.46fF
.ends

.subckt barthmanf_cell inl inr out gp vreg op im x y ip om vdd gnd bp
X0 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X1 vreg inr out bp pmos_3p3 w=1.5u l=0.6u
X2 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X3 d2 inr out gnd nmos_3p3 w=1.8u l=0.6u
X4 d1 inl gnd gnd nmos_3p3 w=1.8u l=0.6u
X5 out inr vreg bp pmos_3p3 w=1.5u l=0.6u
X6 vreg gp vdd vdd pmos_6p0 w=1.8u l=0.6u
X7 vreg inl out bp pmos_3p3 w=1.5u l=0.6u
X8 gnd inr d2 gnd nmos_3p3 w=1.8u l=0.6u
X9 out inl d1 gnd nmos_3p3 w=1.8u l=0.6u
X10 vdd gp vreg vdd pmos_6p0 w=1.8u l=0.6u
X11 out inl vreg bp pmos_3p3 w=1.5u l=0.6u
C0 om inl 0.18fF
C1 om inr 0.18fF
C2 vreg bp 0.92fF
C3 vdd gp 0.66fF
C4 bp inl 0.32fF
C5 inr bp 0.32fF
C6 out op 0.11fF
C7 out vreg 0.78fF
C8 vreg gp 1.98fF
C9 out inl 0.17fF
C10 out inr 0.20fF
C11 vdd vreg 1.41fF
C12 op inl 0.20fF
C13 inr op 0.20fF
C14 om out 0.11fF
C15 out bp 0.15fF
C16 inr inl 0.60fF
C17 om gnd 1.14fF
C18 ip gnd 0.79fF
C19 y gnd 0.79fF
C20 x gnd 0.79fF
C21 im gnd 0.79fF
C22 op gnd 1.13fF
C23 out gnd 1.69fF
C24 inr gnd 2.35fF
C25 inl gnd 2.36fF
C26 vreg gnd 0.72fF
C27 gp gnd 1.56fF
C28 bp gnd 6.58fF
C29 vdd gnd 6.08fF
C30 d2 gnd 0.18fF
C31 d1 gnd 0.18fF
.ends

.subckt barthmanf ip im op om vdd gp bp vreg gnd
Xbarthmanf_edge_0 vreg gp op im x y ip om vdd gnd bp barthmanf_edge
Xbarthmanf_cell_0 im y op gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_1 y ip om gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_3 x op x gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_2 om x x gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_4 x y y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_5 y x y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_6 ip im y gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_8 ip y om gp vreg op im x y ip om vdd gnd bp barthmanf_cell
Xbarthmanf_cell_9 y im op gp vreg op im x y ip om vdd gnd bp barthmanf_cell
C0 vreg vdd 0.21fF
C1 vdd gp 0.12fF
C2 im y 0.12fF
C3 op im 0.15fF
C4 im om 0.19fF
C5 op y 0.33fF
C6 vreg y 0.10fF
C7 ip im 0.40fF
C8 x y 0.17fF
C9 y om 0.32fF
C10 x op 0.51fF
C11 op om 0.12fF
C12 vreg gp -0.59fF
C13 ip y 0.18fF
C14 x om 0.20fF
C15 ip op 0.13fF
C16 x ip 0.43fF
C17 ip om 0.50fF
C18 bp gnd 57.26fF
C19 vdd gnd 50.73fF
C20 barthmanf_cell_9/d2 gnd 0.18fF $ **FLOATING
C21 barthmanf_cell_9/d1 gnd 0.18fF $ **FLOATING
C22 barthmanf_cell_8/d2 gnd 0.18fF $ **FLOATING
C23 barthmanf_cell_8/d1 gnd 0.18fF $ **FLOATING
C24 barthmanf_cell_6/d2 gnd 0.18fF $ **FLOATING
C25 barthmanf_cell_6/d1 gnd 0.18fF $ **FLOATING
C26 barthmanf_cell_5/d2 gnd 0.19fF $ **FLOATING
C27 barthmanf_cell_5/d1 gnd 0.19fF $ **FLOATING
C28 barthmanf_cell_4/d2 gnd 0.19fF $ **FLOATING
C29 barthmanf_cell_4/d1 gnd 0.19fF $ **FLOATING
C30 barthmanf_cell_2/d2 gnd 0.18fF $ **FLOATING
C31 barthmanf_cell_2/d1 gnd 0.19fF $ **FLOATING
C32 barthmanf_cell_3/d2 gnd 0.19fF $ **FLOATING
C33 barthmanf_cell_3/d1 gnd 0.19fF $ **FLOATING
C34 barthmanf_cell_1/d2 gnd 0.18fF $ **FLOATING
C35 barthmanf_cell_1/d1 gnd 0.19fF $ **FLOATING
C36 om gnd 15.22fF
C37 ip gnd 13.46fF
C38 y gnd 24.71fF
C39 x gnd 19.27fF
C40 im gnd 13.99fF
C41 op gnd 15.24fF
C42 vreg gnd 2.69fF
C43 gp gnd 12.68fF
C44 barthmanf_cell_0/d2 gnd 0.18fF $ **FLOATING
C45 barthmanf_cell_0/d1 gnd 0.18fF $ **FLOATING
C46 barthmanf_edge_0/lo gnd 0.85fF $ **FLOATING
C47 barthmanf_edge_0/hi gnd 0.46fF $ **FLOATING
C48 barthmanf_edge_0/hih gnd 0.46fF $ **FLOATING
.ends



Vdd vdd 0 DC 1.8
Vss gnd 0 DC 0
X1 vreg gp op im x y ip om vdd gnd bp barthmanf_edge
.op
.control
op
.endc
.end
